US06790860B2
A solution of 0.126 g (0.3 mmol) (2R,4S)-4-acetylsulfanyl-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester in 12 ml EtOH (degased with Ar) was treated at 0° C. with 0.9 ml 1N LiOH, warmed up to room temperature and stirred for 4.5 h. The reaction was recooled to 0° C. and quenched with aqueous 10% KHSO4. The reaction was extracted with aqueous 10% KHSO4/EtOAc (3×) and the organic phase was washed with aqueous 10% NaCl, dried over Na2SO4 and evaporated to give 0.11 g (97%) (2S,4R)-4-mercapto-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester, MS: 378 (MH+).

reactant | (2R,4S)-4-acetylsulfanyl-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.3 mmol, 0.126 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@@H](C1)SC(C)=O)COCC1=C(C=C(C(=C1)F)F)F | C19H24F3NO4S
reactant | LiOH | 1N, 0.9 ml | [Li+].[OH-]
solvent | EtOH | 12 ml | CCO | C2H6O
product | (2S,4R)-4-mercapto-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.11 g, 97% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)S)COCC1=C(C=C(C(=C1)F)F)F | C17H22F3NO3S
